US04617390
1,3,5-Tris-(p-(oct-1-yloxycarbonyl)-anilino)-s-triazine
75 g of octyl p-aminobenzoate and 18.5 g of cyanuric chloride in 1,000 ml of xylene were heated at 140° C. for 8 hours. After the evolution of hydrogen chloride was complete, the reaction solution was cooled to 90° C., washed twice with saturated sodium bicarbonate solution and once with water and then cooled to room temperature. The white crystals precipitated were filtered off under suction.

reactant | octyl p-aminobenzoate | 75 g | NC1=CC=C(C(=O)OCCCCCCCC)C=C1 | C15H23NO2
reactant | cyanuric chloride | 18.5 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | hydrogen chloride | Cl | ClH
solvent | xylene | 1,000 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,3,5-Tris-(p-(oct-1-yloxycarbonyl)-anilino)-s-triazine | C(CCCCCCC)OC(=O)C1=CC=C(NN2CN(CN(C2)NC2=CC=C(C=C2)C(=O)OCCCCCCCC)NC2=CC=C(C=C2)C(=O)OCCCCCCCC)C=C1 | C48H72N6O6
